US05252575
A mixture of 4-chloro-2,5-diformamido-6-[3-(isopropoxymethoxy)propoxyamino]pyrimidine (3.3 g, 9.12 mmol) and diethoxymethyl acetate (10 ml) was heated at 120° C. for 1 hr. The solution was then evaporated and the residue taken up into methanol (30 ml) and concentrated aqueous ammonia (3 ml). After 1 hr. at 20° C. the solvent was removed and the residue purified by column chromatography on silica gel eluting with hexane:ethyl acetate (1:1) to afford 6-chloro-2-formamido-9-[3-(isopropoxymethoxy)propoxy]purine (1.89 g; 60%), νmax (KBr) 2970, 1697, 1609, 1581, 1503, 1383 cm-1 ; δH [(CD3)2SO], 1.10 (6H, d, J=6.3 Hz, 2×CH3), 1.97 (2H, quintet, J=6.3 Hz, CH2CH2CH2), 3.67 (2H, t, J=6.3 Hz, CH2OC), 3.77 (1H, septet, J=6.3 Hz, CH), 4.49 (2H, t, J=6.3 Hz, CH2ON), 4.65 (2H, s, OCH2O), 8.81 (1H, s, H-8), 9.37 (1H, d, J=9.1 Hz, CHO), 11.30 (1H, br.s, J=9.1 Hz, NH).

reactant | 4-chloro-2,5-diformamido-6-[3-(isopropoxymethoxy)propoxyamino]pyrimidine | 9.12 mmol, 3.3 g | ClC1=NC(=NC(=C1NC=O)NOCCCOCOC(C)C)NC=O | C13H20ClN5O5
solvent | diethoxymethyl acetate | 10 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-chloro-2-formamido-9-[3-(isopropoxymethoxy)propoxy]purine | 1.89 g, 60% | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCCOCOC(C)C | C13H18ClN5O4
